US07524882B2
To a solution of 4-benzyloxy-3-chlorobenzaldehyde (4.9 g, 20 mmol) and trimethyl(trifluoromethyl)silane (4.4 mL, 30 mmol) in THF (0.10 L) was added a solution tetrabutylammonium fluoride (1.0 M in THF, 2.0 mL). After the reaction was stirred at 25° C. for 3 h, it was acidified with 2 N HCl to pH 2, diluted with ethyl acetate and washed with brine. The organic phase was dried and concentrated and the residue was purified by chramotography on silica gel eluting with 8:2 hexane:ethyl acetate to give 1-(4-benzyloxy-3-chlorophenyl)-2,2,2-trifluoroethanol.

reactant | 4-benzyloxy-3-chlorobenzaldehyde | 20 mmol, 4.9 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)Cl | C14H11ClO2
reactant | trimethyl(trifluoromethyl)silane | 30 mmol, 4.4 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 1.0 M, 2.0 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | HCl | 2 N | Cl | ClH
solvent | THF | 0.10 L | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(4-benzyloxy-3-chlorophenyl)-2,2,2-trifluoroethanol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(C(F)(F)F)O)Cl | C15H12ClF3O2
